### PR TITLE
[Merged by Bors] - feat(Analysis/InnerProductSpace/Adjoint): idempotent operator `T` is self-adjoint iff `(range T)ᗮ = ker T`

### PR DESCRIPTION
**Pull request by themathqueen**
This adds that an idempotent operator `T` is self-adjoint iff `(range T)ᗮ = ker T`.

- [x] depends on: #25958
- [x] depends on: #26792

Together with #26767 and #26631, we get that for an idempotent operator `T`, TFAE:
- `T` is normal
- `T` is self-adjoint
- `T` is positive
- `(range T)ᗮ = ker T`

This means that there are several equivalences for star projection operators.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/Algebra/Star/Module.lean [hunk 1]
```diff
@@ -223,3 +223,6 @@ lemma isSelfAdjoint_algebraMap_iff {r : R} (h : Function.Injective (algebraMap R
   ⟨fun hr ↦ h <| algebraMap_star_comm r (A := A) ▸ hr.star_eq, IsSelfAdjoint.algebraMap A⟩
 
 end algebraMap
+
+theorem IsIdempotentElem.star {R : Type*} [Mul R] [StarMul R] {a : R} (ha : IsIdempotentElem a) :
+    IsIdempotentElem (star a) := by simp only [IsIdempotentElem, ← star_mul, ha.eq]
```
Comment (j-loreaux) [inline Mathlib/Algebra/Star/Module.lean]: please add an `↔` version too.

File: Mathlib/Analysis/InnerProductSpace/Adjoint.lean [hunk 2]
```diff
@@ -308,18 +308,36 @@ theorem conj_starProjection {T : E →L[𝕜] E} (hT : IsSelfAdjoint T)
...
-    {p : E →L[𝕜] E} (hp : IsIdempotentElem p) : (LinearMap.range p).HasOrthogonalProjection :=
-  have := hp.isClosed_range.completeSpace_coe
-  .ofCompleteSpace _
+theorem IsIdempotentElem.adjoint_range_eq_range_of (hT : IsIdempotentElem T)
+    (h : (LinearMap.range T)ᗮ = LinearMap.ker T) :
+    LinearMap.range (adjoint T) = LinearMap.range T := by
+  have := hT.hasOrthogonalProjection_range
+  have := hT.star.hasOrthogonalProjection_range
+  rw [← Submodule.orthogonal_orthogonal (LinearMap.range (adjoint T)),
+    orthogonal_range, adjoint_adjoint, ← h, Submodule.orthogonal_orthogonal]
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Adjoint.lean]: I would omit this. The hypothesis (using the next theorem trivially) can be used to show that `adjoint T = T`, at which point this result is instantaneous.

File: Mathlib/Analysis/InnerProductSpace/Adjoint.lean [hunk 3]
```diff
@@ -308,18 +308,36 @@ theorem conj_starProjection {T : E →L[𝕜] E} (hT : IsSelfAdjoint T)
...
+
+/-- An idempotent operator `T` is self-adjoint iff `(range T)ᗮ = ker T`. -/
+theorem IsIdempotentElem.isSelfAdjoint_iff_orthogonal_range (h : IsIdempotentElem T) :
+    IsSelfAdjoint T ↔ (LinearMap.range T)ᗮ = LinearMap.ker T :=
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Adjoint.lean]: ah, can you please add an extensionality lemma for linear idempotents (and continuous ones too)? That is,
```lean
lemma LinearMap.IsIdempotentElem.ext_iff {S T : E →ₗ[𝕜] E} (hS : IsIdempotentElem S)
    (hT : IsIdempotentElem T) :
    S = T ↔ range S = range T ∧ ker S = ker T :=
  sorry

alias ⟨_, LinearMap.IsIdempotentElem.ext⟩ := LinearMap.IsIdempotentElem.ext_iff
```
Once you do that the proof of this lemma should start
```
  rw [isSelfAdjoint_iff, h.ext_iff h.star]
```
and then some shenanigans to turn `range T = range (star T) ∧ ker T = ker (star T)` into `(range T)ᗮ = ker T`.

File: Mathlib/Analysis/InnerProductSpace/Adjoint.lean [hunk 4]
```diff
@@ -308,18 +308,36 @@ theorem conj_starProjection {T : E →L[𝕜] E} (hT : IsSelfAdjoint T)
...
+  ⟨fun hT => hT.isSymmetric.orthogonal_range, fun h1 => isSelfAdjoint_iff'.mp
+    (coe_inj.mp (LinearMap.IsIdempotentElem.ext
+    (congr(LinearMapClass.linearMap $(h.star.eq))) (congr(LinearMapClass.linearMap $(h.eq)))
+    (adjoint_range_eq_range_of h h1) (orthogonal_range T ▸ h1)))⟩
+
+end ContinuousLinearMap
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Adjoint.lean]: To follow up with the previous idea, you can then provide an extensionality lemma for linear star projections. That is,
```lean
lemma ContinuousLinearMap.IsStarProjection.ext_iff {S T : E →L[𝕜] E}
    (hS : IsStarProjection S) (hT : IsStarProjection T) :
    S = T ↔ range S = range T :=
  sorry

alias ⟨_, ContinuousLinearMap.IsStarProjection.ext⟩ := ContinuousLinearMap.IsStarProjection.ext_iff
```
(and I guess a `LinearMap` version too with a `FiniteDimensional` hypothesis.)

**Comment by themathqueen** [comment]
-awaiting-author

File: Mathlib/Analysis/InnerProductSpace/Adjoint.lean [hunk 5]
```diff
@@ -308,18 +308,44 @@ theorem conj_starProjection {T : E →L[𝕜] E} (hT : IsSelfAdjoint T)
...
-  have := hp.isClosed_range.completeSpace_coe
-  .ofCompleteSpace _
+/-- Star projection operators are equal iff their range are. -/
+theorem IsStarProjection.ext_iff {S T : E →L[𝕜] E}
+    (hS : IsStarProjection S) (hT : IsStarProjection T) :
+    S = T ↔ LinearMap.range S = LinearMap.range T := by
+  refine ⟨fun h => h ▸ rfl, fun h => ?_⟩
+  rw [hS.isIdempotentElem.ext_iff hT.isIdempotentElem,
+    ← hT.isIdempotentElem.isSelfAdjoint_iff_orthogonal_range.mp hT.isSelfAdjoint,
+    ← hS.isIdempotentElem.isSelfAdjoint_iff_orthogonal_range.mp hS.isSelfAdjoint]
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Adjoint.lean:335]: Gah, this is annoying. Here we're struggling with the fact that `LinearMap.range` and `LinearMap.ker` are defined for `LinearMapClass`. This means that for `S : E →L[𝕜] E`, `LinearMap.range S = LinearMap.range (S : E →ₗ[𝕜] E)` are definitionally equal, but not *reducibly* so. Therefore, if you were to use the thing you should expect to use, which is:
```suggestion
    ← hT.isSelfAdjoint.isSymmetric.orthogonal_range,
    ← hS.isSelfAdjoint.isSymmetric.orthogonal_range]
```
then it *doesn't* work because the goal involves `LinearMap.ker S`, but those lemmas are about `LinearMap.ker (S : E →ₗ[𝕜] E)`.

There are two solutions to this, neither of which am I going to require for this PR, but I thought I would make you aware.

1. Define `LinearMap.range_coe` and `LinearMap.ker_coe` which takes `(f : F)` with a `LinearMapClass F R M N` instance and gives `range ↑f = range f`. The problem with this is that you actually need to write two lemmas (one for a generic `F` and separate one for `ContinuousLinearMap` because we have two stupid coercions from `ContinuousLinearMap`: the one through `LinearMapClass` and the other from [ContinuousLinearMap.LinearMap.coe](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Algebra/Module/LinearMap.html#ContinuousLinearMap.LinearMap.coe); this is a huge mess)
2. What may be more principled, and has been argued for on Zulip on several occasions, is to define `LinearMap.range` and `LinearMap.ker` only for `LinearMap`s, but that's going to be a nontrivial refactor.

**Comment by j-loreaux** [comment]
bors merge
